US09353066B2
A suspension of 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid (80 mg, 0.178 mmol), glycine methyl ester hydrochloride (24.6 mg, 0.196 mmol), DMAP (2.2 mg, 0.018 mmol), EDC (47.7 mg, 0.249 mmol), and triethylamine (0.074 mL, 0.534 mmol) in DMF (4 mL) was stirred for 15 hours at ambient temperature and then heated to 60° C. for 90 minutes. The reaction mixture was cooled to ambient temperature and then charged with HOBT (12.0 mg, 0.078 mmol), glycine methyl ester hydrochloride (24.6 mg, 0.196 mmol), and triethylamine (0.074 mL, 0.534 mmol). The reaction mixture was heated to 60° C. for 5 hours, cooled to ambient temperature, and diluted with diethyl ether (10 mL), ethyl acetate (10 mL), aqueous hydrochloric acid (1 M, 10 mL), and water (5 mL). The layers were separated, and the organic layer was washed with aqueous hydrochloric acid (1 M, 10 mL), aqueous sodium hydroxide (2×10 mL), saturated aqueous sodium bicarbonate (10 mL), and brine (10 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure to give methyl N-[(3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)carbonyl]glycinate which was used without further purification. MS ESI calc'd. for C22H20F3N4O3 [M+H]+ 445, found 445.

reactant | 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid | 0.178 mmol, 80 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(=O)O | C19H14F3N3O2
reactant | glycine methyl ester hydrochloride | 0.196 mmol, 24.6 mg | Cl.COC(CN)=O
reactant | EDC | 0.249 mmol, 47.7 mg
reactant | triethylamine | 0.534 mmol, 0.074 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.078 mmol, 12.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | glycine methyl ester hydrochloride | 0.196 mmol, 24.6 mg | Cl.COC(CN)=O
reactant | triethylamine | 0.534 mmol, 0.074 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.018 mmol, 2.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 M, 10 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | methyl N-[(3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)carbonyl]glycinate | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(=O)NCC(=O)OC | C22H19F3N4O3
